US05552437
7-Bromomethyl-2-cyano-4-(furan-3-yl)quinoline
To a solution of 2-cyano-4-(furan-3-yl)-7-methylquinoline (4.2 g) in refluxing CCl4 (400 mL) was added NBS (3.3 g) and AIBN (150 mg) portionwise. After 90 min., the mixture was cooled to r.t. filtered through a pad of silica gel washing with CH2Cl2. The filtrate was concentrated and swished with Et2O for 15 h. The solid precipitate was collected and was 85% of the title compound. This material was used as such in the subsequent reactions.

reactant | 2-cyano-4-(furan-3-yl)-7-methylquinoline | 4.2 g | C(#N)C1=NC2=CC(=CC=C2C(=C1)C1=COC=C1)C | C15H10N2O
reactant | NBS | 3.3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 150 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 400 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromomethyl-2-cyano-4-(furan-3-yl)quinoline | BrCC1=CC=C2C(=CC(=NC2=C1)C#N)C1=COC=C1 | C15H9BrN2O
